2127-11-23 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   GNR Bacteremia/CHF
   exacerbation
   24 Hour Events:
   Patient stable overnight.
   Allergies:
   Amiodarone
   diaphoresis;
   Codeine
   Nausea/Vomiting
   Metoprolol
   Hypotension;
   Last dose of Antibiotics:
   Cefipime - [**2127-11-22**] 08:35 PM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2127-11-22**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-23**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 72 (65 - 83) bpm
   BP: 101/78(84) {67/39(49) - 103/78(84)} mmHg
   RR: 18 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: A Paced
             Total In:
                                                                    212 mL
                                                                     66 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                     92 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                    685 mL
                                                                    360 mL
   Urine:
                                                                    135 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -473 mL
                                                                   -294 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   GENERAL: WDWN elderly woman in NAD. Oriented x3.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   NECK: Supple with JVP to mandible
   CARDIAC: RR, normal S1, S2. Systolic murmur [**2-19**]
   LUNGS: Crackles at bases
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Trace LE edema.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ DP/PT dopplerable
   Left: Carotid 2+ DP/PT dopplerable
   Labs / Radiology
   167 K/uL
   8.3 g/dL
   216
   2.3 mg/dL
   22 mEq/L
   4.3 mEq/L
   62 mg/dL
   100 mEq/L
   134 mEq/L
   24.8 %
   11.0 K/uL
        [image002.jpg]
                             [**2127-11-22**]  07:51 PM
                             [**2127-11-22**]  09:30 PM
   WBC
   10.9
   11.0
   Hct
   22.5
   24.8
   Plt
   150
   167
   Cr
   2.3
   2.3
   Glucose
   246
   238
   Other labs: PT / PTT / INR:16.2/75.9/1.4, ALT / AST:54/65, Alk Phos / T
   Bili:122/0.5, Albumin:2.9 g/dL, LDH:319 IU/L
   Assessment and Plan
   86 yo F who presents with nausea, chest tightness found to GNR
   bacteremia, UTI, and possible NSTEMI
   .
   #Gram Neg Rod Bacteremia: UTI pos for E Coli.  Aw
   - Continue  Cefepime 1g q24- (adjusted for ARF), will need to titrate
   up dose if renal function improves
   -Given chronic steroids will continue stress dose hydrocortisone 50mg
   q6
   -f/u urine culture sensetivities, blood culture speciation
   -will check LFTs and C.diff as well given diarrhea
   .
   # CORONARIES: Pt likely suffered NSTEMI, her EKG on admission as
   unchanged, however CK peaked 232, MB 20, MBI 6.7.  CK now trending down
   202, MB 9, Trop 0.97. Pt is chest pain free.
   -Continue heparin gtt
   -Continue asa, statin and plavix
   - Consider transfusing patient
   .
   # PUMP: Pt having acute on chronic systolic HF. Hx of systolic HF with
   EF 20%. Acute on chronic episode may be [**2-15**] NSTEMI.  Current Fluid
   status difficult to assess given possible urosepsis picture
   -Diurese patient with IV lasix as patient with pulmonary edema.
   -ECHO to assess for any changes in systolic function
   .
   # RHYTHM: paced, not anticoagulated for AF
   .
   # Acute on Chronic Renal Failure: Urine lytes indicate that this is not
   pre-renal given FeNa of 8%, however may be inaccurate given on lasix at
   home. [**Month (only) 60**] be poor perfusion in setting of heart failure vs renal
   ischemia
   -will cont to follow
   .
   # Diabetes: poorly controlled likely secondary to UTI.
   - cont standing doses of humulin and ISS
   -If sugars continue to be poorly controlled, may need insulin gtt
   .
   # PMR: on steroids at home, will initiate stress dose steroids
   .
   # FEN: Cardiac, diabetic diet, no diuretics for now given low bp likely
   [**2-15**] sepsis, monitor and replete lytes
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS: heparin gtt
   .
   # CODE: DNR/I, confirmed with patient
   .
   # DISPO: CCU
   .
   #CONTACT: [**First Name4 (NamePattern1) 6196**] [**Known lastname 6430**] [**Telephone/Fax (1) 6431**] (daughter in [**Name (NI) 505**]), son in
   [**Name2 (NI) 6432**]
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-11-22**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
             IV access: Peripheral line Order date: [**11-22**] @ [**2032**]
   13. Gabapentin 300 mg PO DAILY
   home dose is 600 [**Hospital1 **], now adjusted for renal function  Order date:
   [**11-22**] @ [**2032**]
   2. IV access: Peripheral line Order date: [**11-22**] @ [**2032**]
   14. Heparin IV per Weight-Based Dosing Guidelines
   Order date: [**11-22**] @ [**2032**]
   3. Acetaminophen 325-650 mg PO Q6H:PRN pain  Order date: [**11-22**] @ [**2032**]
   15. Hydrocortisone 50 mg PO Q6H  Order date: [**11-22**] @ [**2041**]
   4. Aspirin 325 mg PO DAILY  Order date: [**11-22**] @ [**2032**]
   16. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**11-21**] @ 2348
   5. Atorvastatin 20 mg PO DAILY  Order date: [**11-22**] @ [**2032**]
   17. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale & Fixed Dose Order date: [**11-22**] @ [**2032**]
   6. CefePIME 1 g IV Q24H  Order date: [**11-22**] @ [**2046**]
   18. Levothyroxine Sodium 150 mcg PO DAILY  Order date: [**11-22**] @ [**2032**]
   7. Clopidogrel 75 mg PO DAILY  Order date: [**11-22**] @ [**2032**]
   19. Multivitamins 1 TAB PO DAILY  Order date: [**11-22**] @ [**2032**]
   8. Fexofenadine 60 mg PO BID  Order date: [**11-22**] @ [**2032**]
   20. Omeprazole 20 mg PO DAILY  Order date: [**11-22**] @ [**2032**]
   9. Fluoxetine 20 mg PO DAILY  Order date: [**11-22**] @ [**2071**]
   21. Ondansetron 4 mg IV Q8H:PRN nausea  Order date: [**11-22**] @ [**2032**]
   10. Furosemide 20 mg IV ONCE Duration: 1 Doses Order date: [**11-22**] @ [**2146**]
   22. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**11-22**] @ [**2032**]
   11. Furosemide 40 mg IV ONCE Duration: 1 Doses Order date: [**11-22**] @ 2319
   23. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**11-22**] @ [**2032**]
   12. Furosemide 80 mg IV ONCE Duration: 1 Doses Order date: [**11-23**] @ 1048

2127-11-24 06:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**11-23**] cefepime to ceftriaxone per sensitivities.  BS in 200s, got NPH
   twice by accident.  Still on stress-dose steroids.
   lasix 60 mg @ 2145 for -600 cc with goal 1L
   S: constipated.   Occ aches and pains including some chest pain
   previously.  Currently pain free.  Feels tired and
too weak to go
   home.
   Tele: Occ PVCs
   Allergies:
   Amiodarone
   diaphoresis;
   Codeine
   Nausea/Vomiting
   Metoprolol
   Hypotension;
   Last dose of Antibiotics:
   Cefipime - [**2127-11-22**] 08:35 PM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2127-11-23**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-24**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 65 (60 - 80) bpm
   BP: 101/54(98) {90/42(56) - 113/78(98)} mmHg
   RR: 15 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,276 mL
                                                                     58 mL
   PO:
                                                                  1,060 mL
             TF:
   IVF:
                                                                    216 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    920 mL
   Urine:
                                                                  1,780 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -504 mL
                                                                   -862 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   GENERAL: WDWN elderly woman in NAD. Oriented x3.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   NECK: Supple with JVP to mandible
   CARDIAC: RR, normal S1, S2. Systolic murmur [**2-19**] @ LLSB without
   radiation
   LUNGS: Crackles at bases going
 way up on right, lower on left
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Trace LE edema.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ DP/PT dopplerable
   Left: Carotid 2+ DP/PT dopplerable
   Labs / Radiology
   162 K/uL
   8.4 g/dL
   143 mg/dL
   1.7 mg/dL
   30 mEq/L
   3.6 mEq/L
   59 mg/dL
   101 mEq/L
   139 mEq/L
   25.3 %
   8.2 K/uL
        [image002.jpg]
                             [**2127-11-22**]  07:51 PM
                             [**2127-11-22**]  09:30 PM
                             [**2127-11-23**]  04:00 AM
                             [**2127-11-23**]  08:55 AM
                             [**2127-11-23**]  09:36 AM
                            [**2127-11-24**]  04:31 AM
   WBC
   10.9
   11.0
   10.7
   8.2
   Hct
   22.5
   24.8
   25.9
   25.3
   Plt
   150
   167
   154
   162
   Cr
   2.3
   2.3
   2.1
   1.7
   Glucose
   [**Telephone/Fax (3) 6444**]81
   143
   Other labs: PT / PTT / INR:13.7/66.2/1.2, ALT / AST:52/34, Alk Phos / T
   Bili:110/0.3, Differential-Neuts:89.6 %, Lymph:7.1 %, Mono:3.3 %,
   Eos:0.0 %, Albumin:2.9 g/dL, LDH:312 IU/L, Mg++:2.0 mg/dL
   BCx: pan-sensitive GNR,  E. coli in urine.  NG from [**10-24**] culture
   Assessment and Plan
   86 yo F who presents with nausea, chest tightness found to GNR
   bacteremia, UTI, and possible NSTEMI
   .
   #Gram Neg Rod Bacteremia: Likely source was bladder.  No evidence for
   septic picture, likely from early treatment.
   - Narrowed from cefepime to ceftriaxone.  Will likely need a 14 day
   course from [**10-24**] but can probably go home on PO antibiotics (eg,
   cipro).  Will continue ceftriaxone while in house.  LFTs improving.  No
   evidence of billiary source.
   - D/C stress-dose steroids given stability.  Resume home dose.
   - f/u blood culture speciation
   .
   # CORONARIES: Pt likely suffered NSTEMI, her EKG on admission as
   unchanged, however CK peaked 232, MB 20, MBI 6.7.  CK now trending down
   202, MB 9, Trop 0.97. Pt is chest pain free.
   -heparin gtt for 48 hour course complete.
   -Continue asa, statin and plavix
   -start beta-blocker as not at hypotensive risk.
   .
   # PUMP: Pt having acute on chronic systolic HF. Hx of systolic HF with
   EF 20%. Acute on chronic episode may be [**2-15**] NSTEMI.
   -consider IV lasix if o2 sat drops-bp low at this time: currently
   stable
   -ECHO to assess for any changes in systolic function
   .
   # RHYTHM: paced, not anticoagulated for AF
   .
   # Acute on Chronic Renal Failure: Urine lytes indicate that this is not
   pre-renal given FeNa of 8%, however may be inaccurate given on lasix at
   home. [**Month (only) 60**] be poor perfusion in setting of heart failure vs renal
   ischemia
   -will cont to follow
   .
   # Diabetes: poorly controlled likely secondary to UTI.
   - cont standing doses of humulin and ISS
   -If sugars continue to be poorly controlled, may need insulin gtt
   .
   # PMR: on steroids at home, will initiate stress dose steroids
   .
   # FEN: Cardiac, diabetic diet, no diuretics for now given low bp likely
   [**2-15**] sepsis, monitor and replete lytes
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS: heparin gtt
   .
   # CODE: DNR/I, confirmed with patient
   .
   # DISPO: CCU
   .
   #CONTACT: [**First Name4 (NamePattern1) 6196**] [**Known lastname 6430**] [**Telephone/Fax (1) 6431**] (daughter in [**Name (NI) 505**]), son in
   [**Name2 (NI) 6432**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-11-22**] 07:00 PM
   22 Gauge - [**2127-11-23**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: